US07794767B2
A) Preparation of 2,2,2-trimethoxy-4,5-dimethyl-1,3,2-dioxaphosphole
In a dried flask, 2,3-butanedione (17.20 g, 0.20 mol) was added very slowly at 0-5° C. to trimethyl phosphite (27.28 g, 0.22 mol). The reaction mixture was stirred at room temperature overnight and then distilled (40-47° C./0.1 Torr) using a Vigreux-column. Pure 2,2,2-tri(methoxy)-4,5-dimethyl-1,3,2-dioxaphosphole (35.04 g) was recovered (yield: 83%).

reactant | 2,3-butanedione | 0.20 mol, 17.20 g | CC(C(C)=O)=O | C4H6O2
reactant | trimethyl phosphite | 0.22 mol, 27.28 g | P(OC)(OC)OC | C3H9O3P
product | 2,2,2-trimethoxy-4,5-dimethyl-1,3,2-dioxaphosphole | yield: 83% | COP1(OC(=C(O1)C)C)(OC)OC | C7H15O5P
